US06441017B1
Step F: (R)-2-(tert-Butoxycarbonylamino)-4-(methylmercapto)-N-[4-bromo-7-(tert-butyldimethylsilyloxy)naphthalen-1-yl]butyramide
To (R)-N-(tert-butoxycarbonyl)methionine (1.33 g, 5.48 mmol) in dry H2Cl2 (5 mL) under argon were added PYBOP (2.85 g, 5.48 mmol), 1-amino-4-bromo-7-(tert-butyldimethylsilyloxy)naphthalene hydrochloride, as described above Step E, (800 mg, 2.19 mmol), and N,N-diisopropylethylamine (1.7 mL, 9.9 mmol). The reaction mixture was stirred for 3 hours, then partitioned between 10% aqueous citric acid (100 mL) and CH2Cl2 (100 mL). The organic extract was dried over Na2SO4, filtered, and concentrated in vacuo. The crude product was purified by flash column chromatography on silica, eluting with a gradient of hexane—5% EtOAc to hexane—20% EtOAc to yield the product as a pale foam.

reactant | (R)-N-(tert-butoxycarbonyl)methionine | 5.48 mmol, 1.33 g | C(C)(C)(C)OC(=O)N[C@H](CCSC)C(=O)O | C10H19NO4S
reactant | PYBOP | 5.48 mmol, 2.85 g | C1CCN(C1)[P+](N2CCCC2)(N3CCCC3)ON4C5=C(C=CC=C5)N=N4.F[P-](F)(F)(F)(F)F
reactant | 1-amino-4-bromo-7-(tert-butyldimethylsilyloxy)naphthalene hydrochloride | Cl.NC1=CC=C(C2=CC=C(C=C12)O[Si](C)(C)C(C)(C)C)Br
reactant | N,N-diisopropylethylamine | 9.9 mmol, 1.7 mL | C(C)(C)N(C(C)C)CC | C8H19N
product | (R)-2-(tert-Butoxycarbonylamino)-4-(methylmercapto)-N-[4-bromo-7-(tert-butyldimethylsilyloxy)naphthalen-1-yl]butyramide | C(C)(C)(C)OC(=O)N[C@@H](C(=O)NC1=CC=C(C2=CC=C(C=C12)O[Si](C)(C)C(C)(C)C)Br)CCSC | C26H39BrN2O4SSi
